US07582652B2
4-(4-Fluorophenyl)-2-methylthiazole
Reflux a solution of 2-bromo-4′-fluoroacetophenone (10 g, 46 mmol) and thioacetamide (6.9 g, 92 mmol) in 1,4-dioxane (60 mL) for 3 h. Filter the precipitate and wash with EtOAc to give the title compound (6.5 g, 73%).

reactant | 2-bromo-4′-fluoroacetophenone | 46 mmol, 10 g | BrCC(=O)C1=CC=C(C=C1)F | C8H6BrFO
reactant | thioacetamide | 92 mmol, 6.9 g | C(C)(=S)N | C2H5NS
solvent | 1,4-dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | 4-(4-Fluorophenyl)-2-methylthiazole | 6.5 g, 73% | FC1=CC=C(C=C1)C=1N=C(SC1)C | C10H8FNS
